US07888364B2
86 mg of (S)-propylene oxide was reacted with methyl 2-chloro-4-mercaptobenzoate via Procedure S to afford (S)-methyl 2-chloro-4-(2-hydroxypropylthio)benzoate. 275 mg of (S)-methyl-2-chloro-4-(2-hydroxypropylthio)benzoate was hydrolyzed via Procedure M to give (S)-2-chloro-4-(2-hydroxypropylthio)benzoic acid. 220 mg of (S)-2-chloro-4-(2-hydroxypropylthio)benzoic acid was reacted via Procedure R to give (S)-2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid. 70 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to (S)-2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield (S)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)benzamide. MS (Q1) 465.0 (M)+.

reactant | (S)-propylene oxide | 86 mg | C1[C@H](C)O1 | C3H6O
reactant | methyl 2-chloro-4-mercaptobenzoate | ClC1=C(C(=O)OC)C=CC(=C1)S | C8H7ClO2S
product | (S)-methyl 2-chloro-4-(2-hydroxypropylthio)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)SC[C@H](C)O | C11H13ClO3S
